US09023883B2
A solution of tert-butyl (2-(((3-(4-methacrylamidophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)(methyl)amino)ethyl)(methyl)carbamate (0.08 g, 0.00015 mol) in methanolic HCl (2 mL, 4M solution) was stirred for 1 hr at room temperature. The reaction mixture was concentrated under vacuum and purified by prep HPLC using water:ACN as mobile phase (containing 0.1% TFA as modifier) to obtain N-(4-(4-((methyl(2-(methylamino)ethyl)amino)methyl)-1H-pyrazol-3-yl)phenyl)methacrylamide (0.040 g, yield: 80%). 1H NMR (400 MHz, CD3OD): δ 7.98 (s, 1H), 7.84-7.81 (m, 2H), 7.59-7.56 (d, 2H), 5.85 (s, 1H) 5.58 (s, 1H), 5.52 (s, 1H), 4.51 (s, 2H), 3.37 (s), 2.72 (s, 3H), 2.70 (s, 3H), 2.06 (s, 3H) ppm; LCMS (ESI): RT=1.63 min, m/z=328.3 [M+H]+.

reactant | tert-butyl (2-(((3-(4-methacrylamidophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)(methyl)amino)ethyl)(methyl)carbamate | 0.00015 mol, 0.08 g | C(C(=C)C)(=O)NC1=CC=C(C=C1)C1=NN(C=C1CN(CCN(C(OC(C)(C)C)=O)C)C)C1OCCCC1 | C28H41N5O4
solvent | HCl | 4M, 2 mL | Cl | ClH
product | N-(4-(4-((methyl(2-(methylamino)ethyl)amino)methyl)-1H-pyrazol-3-yl)phenyl)methacrylamide | 0.040 g, yield: 80% | CN(CCNC)CC=1C(=NNC1)C1=CC=C(C=C1)NC(C(=C)C)=O | C18H25N5O
